US07838543B2
Step 4. 2-(3-Dimethylamino-pyrrolidin-1-yl)-benzooxazol-5-ylamine
Combine dimethyl-[1-(5-nitro-benzooxazol-2-yl)-pyrrolidin-3-yl]-amine (1.00 g, 3.62 mmol) and Fe0 (1.98 g, 35.4 mmol) in acetic acid (20 mL) and stir at 40° C. for 2 h. Dilute with water (50 mL) and filter through Celite®. Wash with copious amounts of water and MeOH. Make the filtrate alkaline with 5 N NaOH and extract twice with CH2Cl2 (2×). Concentrate in vacuo to afford the title compound (769 mg, 86%). 1H NMR (400 MHz, CDCl3): δ 7.00 (d, 1H, J=8.4 Hz), 6.70 (d, 1H, J=2.2 Hz), 6.32 (dd, 1H, J=8.4, 2.6 Hz), 3.88 (dd, 1H, J=9.9, 7.1 Hz), 3.81 (m, 1H), 3.62-3.50 (m, 3H), 3.39 (dd, 1H, J=10.1, 8.8 Hz), 2.83 (m, 1H), 2.30 (s, 6H), 2.21 (m, 1H), 1.93 (m, 1H).

reactant | dimethyl-[1-(5-nitro-benzooxazol-2-yl)-pyrrolidin-3-yl]-amine | 3.62 mmol, 1.00 g | CN(C1CN(CC1)C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-])C | C13H16N4O3
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | water | 50 mL | O | H2O
product | 2-(3-Dimethylamino-pyrrolidin-1-yl)-benzooxazol-5-ylamine | 769 mg, 86% | CN(C1CN(CC1)C=1OC2=C(N1)C=C(C=C2)N)C | C13H18N4O
